US07666878B2
1M Aqueous NaOH (0.5 ml) is added to a stirring solution of [4-chloro-1-(4-methanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (38 mg, 0.093 mmol) in 1:1 THF/MeOH (1 ml). After stirring at room temperature for 4 hours, the reaction mixture is filtered to remove any undissolved material and is evaporated to dryness. The resulting oil is dissolved in water (1 ml) and acidified to pH 2. The resulting precipitate collected by filtration and dried in vacuo to afford [4-chloro-1-(4-methanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid. (MH+ 393)

reactant | NaOH | 1M, 0.5 ml | [OH-].[Na+]
reactant | [4-chloro-1-(4-methanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 0.093 mmol, 38 mg | COC(CC1=C(N(C2=NC=CC(=C21)Cl)CC2=CC=C(C=C2)S(=O)(=O)C)C)=O | C19H19ClN2O4S
solvent | THF MeOH | 1 ml | C1CCOC1.CO
product | [4-chloro-1-(4-methanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | ClC1=C2C(=NC=C1)N(C(=C2CC(=O)O)C)CC2=CC=C(C=C2)S(=O)(=O)C | C18H17ClN2O4S
